US07485283B2
6c. 2-ethylsulfinyl-3-((2-tetrahydropyranyloxy)methyl) chromen-4-one
To 2-ethylsulfinyl-3-hydroxymethyl chromen-4-one (5 g, 19.8 mmol) dissolved in dichloromethane (20 mL) in a 25 mL round bottom flask is added dihydropyran (29.7 mmol) and toluenesulfonic acid (0.99 mol). The reaction mixture is stirred for 3 hours after which it is poured into a separatory funnel and water is added. Ethyl acetate is then added and the layers are separated. The organic layer is washed with water (3×10) and brine and dried over sodium sulfate and filtered. The filtrate is concentrated in vacuo and the residue obtained is purified by silica gel flash chromatography (ethyl ether: hexanes) to yield the above product.

reactant | 2-ethylsulfinyl-3-hydroxymethyl chromen-4-one | 19.8 mmol, 5 g | C(C)S(=O)C=1OC2=CC=CC=C2C(C1CO)=O | C12H12O4S
reactant | dihydropyran | 29.7 mmol | O1CCCC=C1 | C5H8O
reactant | toluenesulfonic acid | 0.99 mol | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-ethylsulfinyl-3-((2-tetrahydropyranyloxy)methyl) chromen-4-one | C(C)S(=O)C=1OC2=CC=CC=C2C(C1COC1OCCCC1)=O | C17H20O5S
